*DC GAIN...
Vin vin 0 1
Rf 0 vf 1000
XU1 vin vf vcc -vcc vout LM741/NS 
V1 Vcc 0 12
V2 0 -Vcc 12
R2 vf va 1000
Rl vout va 1000
Rm 0 va 1000
.include LM741.MOD
.op
.control
run
print V(vout)
.endc
.end 
























